US05358955
2-Cyclohexyl-2-[4-(quinolin-2-yl-methoxy)phenyl]acetic acid N-hydroxy-N-methyl-amide
The desired material was prepared according to the procedures described in Example 4 substituting 2-cyclohexyl-2-[4-(quinolin-2-yl-methoxy)phenyl]acetic acid for 2-cyclopentyl-2-[4-(quinolin-2-yl-methoxy)phenyl]acetic acid and Example 6 substituting 2-cyclohexyl-2-[4-(quinolin-2-yl-methoxy)phenyl]acetic acid for {[1-(3-[2-naphthylmethoxy]-phenyl)-4-phenylbutyl]oximino}acetic acid. 1H NMR (DMSO-d6, 300 MHz) δ 0.7 (m, 1H), 1.0 (m, 1H), 1.15 (m, 4H), 1.55(m, 2H), 1.65 (m, 2H), 1.85 (m, 1H), 3.03 (s, 3H), 3.86 (d, 1H, J=7Hz), 4.84 (s, 2H), 7.0 (d, 2H, J=7Hz), 7.2 (d, 2H, J=7Hz), 7.62 (d-t, 1H, J=8Hz and 2Hz),7.68 (d, J=8Hz, 1H), 7.8 (dt, J=8Hz, 2Hz, 1H,), 8.0 (t, J=8Hz, 2H), 8.43 (d, J=8Hz, 1H), 9.8 (s, 1H). IR (CDCl3):3520, 1610 cm-1. MS (DCI/NH3) m/e 405 (M+H)+. Analysis calcd for C25H28N2O3 : C, 74.23; H, 6.98; N, 6.93. Found: C, 73.96; H, 7.04; N, 6.74.

reactant | 2-cyclohexyl-2-[4-(quinolin-2-yl-methoxy)phenyl]acetic acid | C1(CCCCC1)C(C(=O)O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C24H25NO3
reactant | 2-cyclopentyl-2-[4-(quinolin-2-yl-methoxy)phenyl]acetic acid | C1(CCCC1)C(C(=O)O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C23H23NO3
reactant | {[1-(3-[2-naphthylmethoxy]-phenyl)-4-phenylbutyl]oximino}acetic acid | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C(CCCC1=CC=CC=C1)ON=CC(=O)O | C29H27NO4
reactant | NH3 | N | H3N
product | 2-Cyclohexyl-2-[4-(quinolin-2-yl-methoxy)phenyl]acetic acid N-hydroxy-N-methyl-amide | ON(C(C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1CCCCC1)=O)C | C25H28N2O3
